US04381313
550 g of ethyl bromide are added drop-wise to 470 g of 4-isobutylphenyl acetonitrile, 1550 g of a 50% solution of sodium hydroxide and 11.4 g of triethylbenzyl ammonium chloride. The addition is complete within 2 hours. During this addition, the temperature must be controlled such that it does not exceed 40° C. The mixture is agitated for 10 hours at 40° C. After cooling of the mixture, the alkaline phase is discarded and the organic layer is washed with water until neutral. Fractionation yields 536 g of crude 2-(4-isobutylphenyl)butyronitrile.

reactant | ethyl bromide | 550 g | C(C)Br | C2H5Br
reactant | 4-isobutylphenyl acetonitrile | 470 g | C(C(C)C)C1=CC=C(C=C1)CC#N | C12H15N
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | triethylbenzyl ammonium chloride | 11.4 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2-(4-isobutylphenyl)butyronitrile | 536 g | C(C(C)C)C1=CC=C(C=C1)C(C#N)CC | C14H19N
